US07820707B2
Ethylamine (175 mg, 0.205 mL, 3.89 mmol) was added to a solution of 2-(2-(3-tert-butyl-4-formyl-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (151 mg, 0.389 mmol) and acetic acid (0.5 mL) in DMF (2.5 mL). Sodium triacetoxyborohydride (824 mg, 3.89 mmol) was added and the mixture stirred for 17 h. Water (300 μL) was added and the reaction stirred for 30 min. The reaction was filtered and purified by preparative reverse phase HPLC. The clean fractions were passed down an SCX cartridge and the product eluted with 2M NH3 in MeOH. Volatiles were blown down to give 2-(2-(3-tert-butyl-4-((ethylamino)methyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (13 mg, 0.031 mmol, 8%).

reactant | Ethylamine | 3.89 mmol, 0.205 mL, 175 mg | C(C)N | C2H7N
reactant | 2-(2-(3-tert-butyl-4-formyl-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.389 mmol, 151 mg | C(C)(C)(C)C1=NN(C=C1C=O)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C19H24N4O3S
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 3.89 mmol, 824 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | Water | 300 μL | O | H2O
product | 2-(2-(3-tert-butyl-4-((ethylamino)methyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.031 mmol, 13 mg, 8% | C(C)(C)(C)C1=NN(C=C1CNCC)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C21H31N5O2S
